US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-4-hydroxyisophthalamic acid (Compound No. 80)
N-[3,5-Bis(trifluoromethyl)phenyl]-4-hydroxyisophthalamic acid methyl ester (2.85 g, 7 mmol) was suspended in a mixed solvent of methanol (14 mL) and tetrahydrofuran (14 mL). 2 N aqueous sodium hydroxide (14 mL) was added, and the mixture was refluxed for 2 hours. After cooling, the reaction mixture was added 2 N hydrochloric acid (20 ml) and the separated solid was filtered, washed with water, dried to give the title compound (2.68 g, 97.4%) as a white crystal.

reactant | N-[3,5-Bis(trifluoromethyl)phenyl]-4-hydroxyisophthalamic acid methyl ester | 7 mmol, 2.85 g | COC(C1=CC(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=C(C=C1)O)=O | C17H11F6NO4
reactant | methanol | 14 mL | CO | CH4O
reactant | sodium hydroxide | 2 N, 14 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 N, 20 ml | Cl | ClH
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
product | N-[3,5-Bis(trifluoromethyl)phenyl]-4-hydroxyisophthalamic acid | 2.68 g, 97.4% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C=1C=C(C(=O)O)C=CC1O)=O)(F)F | C16H9F6NO4
